US07521447B2
Step F: 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{5-fluoro-2-[1-(2-hydroxy-2-methylpropyl)-1H-indazol-5-yloxy]-benzyl}-urea:
To a solution of -(2-{1-[2-(tert-butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzyl)-3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-urea (0.084 g, 0.135 mmol) in dichloromethane (3 mL) was added TBAF (0.70 mL of 1M in THF). The mixture was stirred at room temperature for 5 days. The reaction mixture was poured into NH4Cl and extracted with ethyl acetate (3×30 mL). The combined extracts were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was chromatographed on silica eluting with acetone/hexanes (2:1) to afford 0.060 g of product (87% yield). MS (ESI+) m/z 509 (M+1) detected; 1H NMR (400 mHz, DMSO-D6) δ 8.45 (s, 1H), 7.98 (s, 1H), 7.74 (d, 1H), 7.17 (m, 3H), 7.08 (m, 1H), 6.85 (m, 2H), 5.95 (s, 1H), 4.66 (s, 1H), 4.33 (d, 2H), 4.30 (s, 2H), 2.50 (s, 3H), 1.18 (s, 9H), 1.12 (s, 6H).

reactant | (2-{1-[2-(tert-butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzyl)-3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-urea | 0.135 mmol, 0.084 g | [Si](C)(C)(C(C)(C)C)OC(CN1N=CC2=CC(=CC=C12)OC1=C(CNC(=O)NC=2N(N=C(C2)C(C)(C)C)C)C=C(C=C1)F)(C)C | C33H47FN6O3Si
reactant | TBAF | 1M, 0.70 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{5-fluoro-2-[1-(2-hydroxy-2-methylpropyl)-1H-indazol-5-yloxy]-benzyl}-urea | 0.060 g, 87% yield | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CC(C)(C)O | C27H33FN6O3
